US04548973
Preparation of 1,4-Dihydro-2,6-dimethyl-4-oxo-1-(2,2,6,6-tetramethyl-4-piperidinyl)3-pyridinecarboxylic acid
A 1-liter, 3-neck, round-bottom flask was equipped with a mechanical stirrer, thermometer, and a Dean-Stark water trap topped with a water cooled condenser. The flask was charged with a mixture of 80.5 g (0.479 mol) dehydroacetic acid, 75.0 g (0.479 mol) 4-amino-2,2,6,6-tetramethylpiperidine, and 600 ml toluene. The stirred mixture in the flask was heated to the boiling point by means of an oil bath and the water formed during the reaction was collected in the trap. After 6 hours of reflux a total of 7.0 ml water had been collected and the flask and its contents cooled to room temperature. The mixture deposited crystals on standing which were collected by vacuum filtration. Reduction of volume of toluene in the filtrate caused a deposit of a second crop of crystals. The combined crystals were recrystallized from a 65/35 mixture of hexane/benzene to give 111 g (75.6%) of a white to colorless crystalline solid (M.P. 174° C.). The chemical structure and purity of these crystals were verified by mass spectroscopy, nuclear magnetic resonance spectroscopy; and by elemental analysis.

reactant | dehydroacetic acid | 0.479 mol, 80.5 g | CC1=CC(=O)C(C(=O)O1)C(=O)C | C8H8O4
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 0.479 mol, 75.0 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1,4-Dihydro-2,6-dimethyl-4-oxo-1-(2,2,6,6-tetramethyl-4-piperidinyl)3-pyridinecarboxylic acid | CC=1N(C(=CC(C1C(=O)O)=O)C)C1CC(NC(C1)(C)C)(C)C | C17H26N2O3
